Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-2.06461101603
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-1.57855168597
[H:15].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.10746708325
[H:14].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12][H:13]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-5.115945450280001
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.9167271232900005
[C:4]#[C:5][H:6].[O:1]=[C:2]=[O:3]>>[O:1][C:2](=[O:3])[C:4]#[C:5][H:6],-0.840634892201
[H:16].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-1.90519831331
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3]([H:4])#[C:5][H:6].[H:1][C:2]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.3864714612
[H:1][C:2]1[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1([H:12])[H:13]>>[H:1][C:2][C:11]([O:10][C:7]([C:5](=[C:3][H:4])[H:6])([H:8])[H:9])([H:12])[H:13],5.7619550763900005
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11].[H:12],4.63810658021
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]=[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],4.29951432657
[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7]>>[H:1][C:2]=[C:3]([O:4][C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.1051241643700003
[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-5.38821544265
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([O:4][C:5]([H:6])[H:7])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14].[H:8],4.31633933767
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11](/[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],6.80428212
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[O:10][H:11],-2.84427001865
[H:1][C:2][O:3][C@@:4]1([H:5])[C:6]([O:7][H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:9]([C:6][O:7][H:8])([H:10])[H:11],1.3715858902899998
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.8335169917700005
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[O:10][H:11],-1.95519372407
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.53532871181
[H:10].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.80650147133
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.0212386152900006
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:9],1.7815556358900002
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:10][C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.67264875401
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15],1.92383119021
[C:9]([H:10])([H:11])[H:12].[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.30602480636
